US07262318B2
4-(4-Trifluoromethyl-benzylsulfanyl)-phenylamine
Sodium hydride [0.153 g (50% in mineral oil), 3.2 mmol] was added to a solution of 4-aminothiophenol (0.20 g, 1.6 mmol) in 5 ml anhydrous tetrahydrofuran. The resulting mixture was stirred at room temperature under nitrogen for 15 min, then 4-trifluoromethylbenzyl chloride (0.236 ml, 1.6 mmol) was added. The reaction mixture was stirred overnight at room temperature under nitrogen. Water (50 ml) was then added and the resulting mixture was extracted with 2×50 ml ethyl acetate. The combined ethyl acetate extracts were washed sequentially with 60 ml saturated aqueous sodium bicarbonate solution, 60 ml water and 60 ml brine, dried (anhydrous sodium sulfate) and concentrated under reduced pressure. The solid residue was purified by flash column chromatography (silica gel, 15 g), eluting with 85:15 hexane/ethyl acetate to yield the title compound as an off-white solid (0.318 g, 70% yield). MS: 284.1 (M+1)

reactant | Sodium hydride | 3.2 mmol, 0.153 g | [H-].[Na+]
reactant | 4-aminothiophenol | 1.6 mmol, 0.20 g | NC1=CC=C(C=C1)S | C6H7NS
reactant | 4-trifluoromethylbenzyl chloride | 1.6 mmol, 0.236 ml | FC(C1=CC=C(CCl)C=C1)(F)F | C8H6ClF3
reactant | Water | 50 ml | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(4-Trifluoromethyl-benzylsulfanyl)-phenylamine | 0.318 g, 70% yield | FC(C1=CC=C(CSC2=CC=C(C=C2)N)C=C1)(F)F | C14H12F3NS
